US08895744B2
4-(9H-pyrido[2,3-b]indol-6-yl)thiazol-2(3H)-one (R221)
A solution of potassium thiocyanate (73 mg, 0.73 mmol, 2 equiv.) in Ethanol (1 mL), was added dropwise a solution of compound 2-Bromo-1-(9H-pyrido[2,3-b]indol-6-yl)ethanone (150 mg, 0.366 mmol) in ethanol (1 mL). The mixture was stirred at reflux for 1 hour. The resulting mixture was then cautiously quenched at 0° C. with H2O. It was extracted with EtOAc. The resulting organic layer was washed with NaCl saturated aqueous solution, dried over MgSO4, and filtered. Solvent was removed under reduced pressure The crude product was triturated and filtered. The resulting product (82 mg, 0276 mmol) was dissolved in glacial acetic acid (1 mL), 50% sulfuric acid (200 μL) was added, and then the mixture was heated to reflux for 1 hour. The resulting mixture was quenched at 0° C. with H2O. The aqueous layer is treated with Na2CO3 until pH=6 and then extracted with AcOEt (3×20 ml). The organic layers was washed with NaCl saturated aqueous solution, dried over MgSO4, and filtered. Solvent was removed under reduced pressure. A white powder was obtained in 23% yield after trituration of the crude product in MeOH and filtration; 1H NMR (300 MHz, DMSO-d6): δ 11.96 (bs, 1H), 11.78 (bs, 1H), 8.48-8.43 (m, 3H), 7.74 (dd, 1H, J=1.9, 8.5 Hz), 7.52 (d, 1H, J=8.5 Hz), 7.25 (dd, 1H, J=5.5, 7.2 Hz), 6.69 (d, 1H, J=1.9 Hz), 4.75 (bs, 1H); MS (ESI) m/z 268.1 [M+H+]

reactant | potassium thiocyanate | 0.73 mmol, 73 mg, 2 equiv. | [S-]C#N.[K+]
reactant | 2-Bromo-1-(9H-pyrido[2,3-b]indol-6-yl)ethanone | 0.366 mmol, 150 mg | BrCC(=O)C=1C=C2C3=C(NC2=CC1)N=CC=C3 | C13H9BrN2O
reactant | Ethanol | 1 mL | C(C)O | C2H6O
reactant | ethanol | 1 mL | C(C)O | C2H6O
product | 4-(9H-pyrido[2,3-b]indol-6-yl)thiazol-2(3H)-one | N1=CC=CC2=C1NC1=CC=C(C=C21)C=2NC(SC2)=O | C14H9N3OS
